US07589206B2
Description 1: 4-Chloro-1-methyl-7-(1-piperidinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine
A solution of oxalylchloride (3.43 ml) in DCM (40 ml) was cooled to 0° C. and 4-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid (3.75 g) was added portionwise followed by the addition of DMF (4 drops). The reaction mixture was stirred at 0° C. for 90 min, DCM (5 ml) was added and stirring continued for a further 30 min. The reaction mixture was evaporated and the residue dissolved in dichloromethane (20 ml) and dimethylformamide (10 ml). N-ethylmorpholine (9.09 ml) followed by piperidine (3.53 ml) were added and the mixture stirred at 0° C. for 45 min. The reaction mixture was evaporated and the residue dissolved in EtOAc (150 ml). The organic layer washed with water (100 ml), sodium bicarbonate (3×100 ml) and brine (30 ml) then dried (MgSO4) and evaporated to a yellow oil. The oil was triturated with diethyl ether, and the solid filtered and dried at 60° C. under vacuum, to afford the title compound (3.95 g).

reactant | oxalylchloride | 3.43 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid | 3.75 g | ClC1=NC=C(C2=C1C=CN2C)C(=O)O | C9H7ClN2O2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-Chloro-1-methyl-7-(1-piperidinylcarbonyl)-1H-pyrrolo[3,2-c]pyridine | 3.95 g | ClC1=NC=C(C2=C1C=CN2C)C(=O)N2CCCCC2 | C14H16ClN3O
